US06927221B2
Ethyl 2-(7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
Phosphorus oxychloride (1.7 g) was added to ethyl 2-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate (120 mg) of Reference Example 27 at room temperature, followed by stirring for one hour under heating under reflux. After cooling, the reaction solution was poured onto ice. The reaction mixture was basified with an aqueous saturated solution of sodium bicarbonate, and then extracted twice with ethylacetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give the title compound (130 mg) as a reddish brown oil.

reactant | Phosphorus oxychloride | 1.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-(3-mesityl-2,5-dimethyl-7-oxo-4,7-dihydropyrazolo[1,5-a]pyrimidin-6-yl)acetate | 120 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1NC(=C(C2=O)CC(=O)OCC)C)C)C | C21H25N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Ethyl 2-(7-chloro-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 130 mg | ClC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CC(=O)OCC | C21H24ClN3O2
